US08461158B2
A mixture of tert-butyl 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-6-ylcarbamate (0.20 g, 0.31 mmol) and TFA (5 mL) in CH2Cl2 (20 mL) was stirred at room temperature for 2 hrs. The mixture was diluted with CH2Cl2 (100 mL) and water (100 mL), and the aqueous layer was made basic with aqueous NH3. The organic layer was dried and concentrated under vacuum. Recrystallization of the residue from CH2Cl2/MeOH gave 0.145 g (86% yield) of 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-6-ylamine: mp 280-283° C.; 1H NMR (CDCl3) δ 7.59 (t, JHF=53.4 Hz, 1H), 7.05 (d, J=1.7 Hz, 1H), 6.26 (d, J=1.7 Hz, 1H), 5.45 (s, exchangeable with D2O, 2H), 3.93 (m, 4H), 3.87 (s, 3H), 3.80 (m, 4H), 3.69 (m, 4H), 3.24 (m, 4H), 2.91 (s, 3H); Anal. Calcd. for C21H27F2N9O4S: C, 46.75; H, 5.0; N, 23.4. Found: C, 47.0; H, 5.2; N, 23.4%.

reactant | tert-butyl 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-6-ylcarbamate | 0.31 mmol, 0.20 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=C(C=C2OC)NC(OC(C)(C)C)=O)F | C26H35F2N9O6S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-6-ylamine | 0.145 g, 86% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=C(C=C2OC)N)F | C21H27F2N9O4S
